US07741479B2
To a stirred sodium methoxide solution (15% by weight, 80 mL total) was added drop-wise a solution of 1-cyano-3,3-dimethylbut-1-en-2-yl 4-methylbenzenesulfonate (10.0 g, 36 mmol) and diethyl aminomalonate hydrochloride salt (9.0 g, 43 mmol) in methanol (50 mL). After the addition was completed, the reaction was stirred at room temperature for 2 hours, the solvent was removed under vacuum and the crude product was dissolved in water and extracted with ethyl acetate. The combined organic layers was washed with brine, dried and the solvent removed under vacuum. The crude product was purified by column chromatography (silicagel, dichloromethane:methanol 95:5) to afford 2.4 g of the desired methyl 3-amino-5-tert-butyl-1H-pyrrole-2-carboxylate used as such in the next step.

reactant | sodium methoxide | 80 mL | C[O-].[Na+]
reactant | 1-cyano-3,3-dimethylbut-1-en-2-yl 4-methylbenzenesulfonate | 36 mmol, 10.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC(=CC#N)C(C)(C)C | C14H17NO3S
reactant | diethyl aminomalonate hydrochloride salt | 43 mmol, 9.0 g | Cl.NC(C(=O)OCC)C(=O)OCC
solvent | methanol | 50 mL | CO | CH4O
product | methyl 3-amino-5-tert-butyl-1H-pyrrole-2-carboxylate | 2.4 g | NC1=C(NC(=C1)C(C)(C)C)C(=O)OC | C10H16N2O2
